US08541455B2
According to process 5.2, starting with 0.54 g of 6-chloro-N-[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]-N-phenylpyridine-3-sulfonamide and 30 μL of hydrazine hydrate, 0.53 g of N-[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]-6-hydrazinyl-N-phenylpyridine-3-sulfonamide is obtained in the form of a white solid.

reactant | 6-chloro-N-[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]-N-phenylpyridine-3-sulfonamide | 0.54 g | ClC1=CC=C(C=N1)S(=O)(=O)N(C1=CC=CC=C1)CC1OC(OC1)(C)C | C17H19ClN2O4S
reactant | hydrazine hydrate | 30 μL | O.NN
product | N-[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]-6-hydrazinyl-N-phenylpyridine-3-sulfonamide | 0.53 g, Yield=99% | CC1(OCC(O1)CN(S(=O)(=O)C=1C=NC(=CC1)NN)C1=CC=CC=C1)C | C17H22N4O4S
